US08222249B2
5.24 1-(2-(Aminomethyl)-5-methylphenyl)-3-((2-(2,6-dioxopiperidin-3-yl)-1-oxoisoindolin-5-yl)methyl)urea
A mixture of 1-(2-cyano-5-methylphenyl)-3-((2-(2,6-dioxopiperidin-3-yl)-1-oxoisoindolin-5-yl)methyl)urea (0.54 g, 1.0 mmol), platinum oxide (0.1 g), and 5-6M HCl in isopropanol (2 mL) in acetic acid (15 mL) is hydrogenated under 50 psi hydrogen for 48 hrs. The mixture is filtered through Celite, the filtrate is evaporated under vacuum, and the residue is purified by preparative HPLC to provide the product.

reactant | 1-(2-cyano-5-methylphenyl)-3-((2-(2,6-dioxopiperidin-3-yl)-1-oxoisoindolin-5-yl)methyl)urea | 1.0 mmol, 0.54 g | C(#N)C1=C(C=C(C=C1)C)NC(=O)NCC=1C=C2CN(C(C2=CC1)=O)C1C(NC(CC1)=O)=O | C23H21N5O4
reactant | HCl | 5-6M | Cl | ClH
reactant | hydrogen | [H][H] | H2
solvent | isopropanol | 2 mL | C(C)(C)O | C3H8O
solvent | acetic acid | 15 mL | C(C)(=O)O | C2H4O2
catalyst | platinum oxide | 0.1 g | [Pt]=O
product | 1-(2-(Aminomethyl)-5-methylphenyl)-3-((2-(2,6-dioxopiperidin-3-yl)-1-oxoisoindolin-5-yl)methyl)urea | NCC1=C(C=C(C=C1)C)NC(=O)NCC=1C=C2CN(C(C2=CC1)=O)C1C(NC(CC1)=O)=O | C23H25N5O4
